US04710491
N-Octadecyl-N-(galactopyranosyl)-amine
60 g of D-galactose were suspended in 330 ml of isopropanol and 170 ml of water and the suspension was warmed to 50°. After addition of 90 g of stearylamine, the mixture was stirred until all the amine had dissolved. On cooling, the glycosylamine crystallized out. The solid was filtered off with suction, washed successively with ethanol and ether and dried in vacuo.

reactant | D-galactose | 60 g | O=C[C@H](O)[C@@H](O)[C@@H](O)[C@H](O)CO | C6H12O6
reactant | water | 170 ml | O | H2O
reactant | stearylamine | 90 g | C(CCCCCCCCCCCCCCCCC)N | C18H39N
solvent | isopropanol | 330 ml | C(C)(C)O | C3H8O
product | N-Octadecyl-N-(galactopyranosyl)-amine | C(CCCCCCCCCCCCCCCCC)NC1[C@H](O)[C@@H](O)[C@@H](O)[C@H](O1)CO | C24H49NO5
